datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1c[n+:21]([H:20])c(-c2ccccc2)c(O)[nH+]1.Cc1ccccc1-n1nn[n:10]c1N>>Cc1c[n:21]c(-c2ccccc2)c(O)[nH+]1.Cc1ccccc1-n1nn[n+:10]([H:20])c1N 10=20;20,21=21",
"CCCCCCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:10].Cn1cc[n+:21]([H:20])c1-c1ccccn1>>CCCCCCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:10][H:20].Cn1cc[n:21]c1-c1ccccn1 10=20;20,21=21",
"OCc1cc[n+:21]([H:20])cc1.[O-]c1[nH+]ccc2c1c[n:10]c1ccccc21>>OCc1cc[n:21]cc1.[O-]c1[nH+]ccc2c1c[n+:10]([H:20])c1ccccc21 10=20;20,21=21",
"CCCCCCCCCCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCCCCCCCCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCC[N-:10][N+](=O)[O-].Cc1c(O)ccc(C(=O)[O-])[n+:21]1[H:20]>>CCC[N:10]([N+](=O)[O-])[H:20].Cc1c(O)ccc(C(=O)[O-])[n:21]1 10=20;20,21=21",
"Cc1cc(C=O)c([O-:10])c(C=O)c1.N#Cc1ncnc2nc[n:21]([H:20])c12>>Cc1cc(C=O)c([O:10][H:20])c(C=O)c1.N#Cc1ncnc2nc[n-:21]c12 10=20;20,21=21",
"Cn1c(-c2ccccc2[O-])[n+:21]([H:20])c2ccccc21.c1ccc([O-:10])c(C2CCNCCNCCCNCCN2)c1>>Cn1c(-c2ccccc2[O-])[n:21]c2ccccc21.c1ccc([O:10][H:20])c(C2CCNCCNCCCNCCN2)c1 10=20;20,21=21",
"CCCCCCCCCCCCCC[N+:21](CCO)(CC(C)O)[H:20].O=C([O-])/C=C\C(=O)[N-:10]OCc1ccccc1>>CCCCCCCCCCCCCC[N:21](CCO)CC(C)O.O=C([O-])/C=C\C(=O)[N:10](OCc1ccccc1)[H:20] 10=20;20,21=21",
"C[N:10](C)CCC/N=C(\c1ccccc1)c1ccc2ccccc2c1.[S-]c1nc([O:21][H:20])c2[nH]cnc2n1>>C[N+:10](C)(CCC/N=C(\c1ccccc1)c1ccc2ccccc2c1)[H:20].[S-]c1nc([O-:21])c2[nH]cnc2n1 10=20;20,21=21",
"C=CCc1ccccc1OCC(O)C[NH:10]C(C)C.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C=CCc1ccccc1OCC(O)C[NH+:10](C(C)C)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"O=C([O-])C(O)C[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])C(O)C[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[N+:21](CC)(CC)[H:20].[NH3+]CCC(=O)NCCc1c[nH]c[n:10]1>>CC[N:21](CC)CC.[NH3+]CCC(=O)NCCc1c[nH]c[n+:10]1[H:20] 10=20;20,21=21",
"CCc1cc(Cl)c(OC)c(C(=O)NCC2CCC[N+:21]2(CC)[H:20])c1[O-].Nc1ccc2n[n:10]ccc2c1>>CCc1cc(Cl)c(OC)c(C(=O)NCC2CCC[N:21]2CC)c1[O-].Nc1ccc2n[n+:10]([H:20])ccc2c1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1c[nH]c(C(c2ncc[nH]2)[NH2:10])n1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1c[nH]c(C(c2ncc[nH]2)[NH2+:10][H:20])n1 10=20;20,21=21",
"OCCc1cnc(P(c2[nH]c(CCO)c[nH+]2)c2[nH]c(CCO)c[n+:21]2[H:20])[nH]1.c1c(CN2CCNCC[NH:10]CC2)n[nH]c1CN1CCNCCNCC1>>OCCc1cnc(P(c2[nH]c(CCO)c[nH+]2)c2[nH]c(CCO)c[n:21]2)[nH]1.c1c(CN2CCNCC[NH+:10]([H:20])CC2)n[nH]c1CN1CCNCCNCC1 10=20;20,21=21",
"Fc1cccc([N:21](C(=S)c2ccc(Cl)cc2)[H:20])c1.O=C(C(c1ccc(C2CCCCC2)cc1)C(O)c1ccccc1)[O-:10]>>Fc1cccc([N-:21]C(=S)c2ccc(Cl)cc2)c1.O=C(C(c1ccc(C2CCCCC2)cc1)C(O)c1ccccc1)[O:10][H:20] 10=20;20,21=21",
"CC(=O)Nc1cccc([O-:10])c1.CC(=O)n1ccnc1Cc1[nH]cc[n+:21]1[H:20]>>CC(=O)Nc1cccc([O:10][H:20])c1.CC(=O)n1ccnc1Cc1[nH]cc[n:21]1 10=20;20,21=21",
"Nc1c2ccccc2[nH+]c2cccc([O:21][H:20])c12.O=C1NC(CC(=O)[O-:10])Oc2ccccc21>>Nc1c2ccccc2[nH+]c2cccc([O-:21])c12.O=C1NC(CC(=O)[O:10][H:20])Oc2ccccc21 10=20;20,21=21",
"CSc1ccc[n:10]c1.C[Si](C)(CCl)CCCC(=O)[O:21][H:20]>>CSc1ccc[n+:10]([H:20])c1.C[Si](C)(CCl)CCCC(=O)[O-:21] 10=20;20,21=21",
"CCCCCCCCCCCC[N:10](CCO)CC(C)O.CC[NH+:21](CC(=O)c1ccc(O)cc1)[H:20]>>CCCCCCCCCCCC[N+:10](CCO)(CC(C)O)[H:20].CC[NH:21]CC(=O)c1ccc(O)cc1 10=20;20,21=21",
"CCCC(=O)C(CC[N+:21]1([H:20])CCOCC1)(c1ccccc1)c1ccccc1.Clc1ccc([O-:10])c(C[NH+]2CCCCC2)c1>>CCCC(=O)C(CC[N:21]1CCOCC1)(c1ccccc1)c1ccccc1.Clc1ccc([O:10][H:20])c(C[NH+]2CCCCC2)c1 10=20;20,21=21",
"C1CNCCSCC[NH:10]C1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C1CNCCSCC[NH+:10]([H:20])C1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"COc1ccc([N+](=O)[O-])c(C[NH2:10])c1.Cc1ccccc1[NH+:21](C)[H:20]>>COc1ccc([N+](=O)[O-])c(C[NH2+:10][H:20])c1.Cc1ccccc1[NH:21]C 10=20;20,21=21",
"C=CCC1(C2=CCCCC2)C(=O)NC(=S)[N-:10]C1=O.CC=C1C[N+:21]2([H:20])[C@@H]3C[C@H]1C1[C@@H](O)[C@]4(C[C@@H]12)c1ccccc1N(C)[C@@H]34>>C=CCC1(C2=CCCCC2)C(=O)NC(=S)[N:10]([H:20])C1=O.CC=C1C[N:21]2[C@@H]3C[C@H]1C1[C@@H](O)[C@]4(C[C@@H]12)c1ccccc1N(C)[C@@H]34 10=20;20,21=21",
"O=C([O-])[C@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O-:10])c1ccccc1O.O=[N+]([O-])c1ccc([O:21][H:20])c(C[NH+]2CCOCC2)c1>>O=C([O-])[C@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O:10][H:20])c1ccccc1O.O=[N+]([O-])c1ccc([O-:21])c(C[NH+]2CCOCC2)c1 10=20;20,21=21",
"CC(C)[NH+](CC[S-:10])C(C)C.CCCCCCCCCCCCCCC(=O)[O:21][H:20]>>CC(C)[NH+](CC[S:10][H:20])C(C)C.CCCCCCCCCCCCCCC(=O)[O-:21] 10=20;20,21=21",
"C[N:10](C)CCc1c[nH]c2ccc([O-])cc12.O=C(CCc1ccc([N+](=O)[O-])cc1)[O:21][H:20]>>C[N+:10](C)(CCc1c[nH]c2ccc([O-])cc12)[H:20].O=C(CCc1ccc([N+](=O)[O-])cc1)[O-:21] 10=20;20,21=21",
"CC1=[N+:21]([H:20])CCS1.C[NH+]1C[C@@H](C(=O)[O-:10])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@H]12>>CC1=[N:21]CCS1.C[NH+]1C[C@@H](C(=O)[O:10][H:20])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@H]12 10=20;20,21=21",
"C1CCC([N:10]2CCCC2)CC1.NC1=C/C(=[NH+:21]\[H:20])c2ccccc2C1=O>>C1CCC([N+:10]2([H:20])CCCC2)CC1.NC1=CC(=[NH:21])c2ccccc2C1=O 10=20;20,21=21",
"CC(=O)Nc1nnn[n-:10]1.CCOC(=O)C[NH2+:21][H:20]>>CC(=O)Nc1nnn[n:10]1[H:20].CCOC(=O)C[NH2:21] 10=20;20,21=21",
